US08491869B2
2-Bromo-4-nitroquinoline (50 mg, 0.2 mmol) and tert-butyl methyl(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)carbamate (66 mg, 0.2 mmol) were reacted using General Procedure (A) to afford tert-butyl methyl(4-(4-nitroquinolin-2-yl)phenyl)carbamate as a yellow oil (52 mg, 68%). 1H NMR (400 MHz, CDCl3): δ 8.43-8.40 (m, 2H), 8.28 (m, 1H), 8.19 (m, 2H), 7.87 (m, 1H), 7.73 (m, 1H), 7.46 (m, 2H), 3.35 (s, 3H), 1.59 (s, 3H), 1.50 (s, 9H); MS (ESI): 380 (M+H+).

reactant | 2-Bromo-4-nitroquinoline | 0.2 mmol, 50 mg | BrC1=NC2=CC=CC=C2C(=C1)[N+](=O)[O-] | C9H5BrN2O2
reactant | tert-butyl methyl(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)carbamate | 0.2 mmol, 66 mg | CN(C(OC(C)(C)C)=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H28BNO4
product | tert-butyl methyl(4-(4-nitroquinolin-2-yl)phenyl)carbamate | 52 mg, 68% | CN(C(OC(C)(C)C)=O)C1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=C1)[N+](=O)[O-] | C21H21N3O4
